US04001335
33.6 parts of 2,4,5-trimethylbenzophenone and 0.1 part of iodine are dissolved in 150 parts of trichloroethylene. 19.2 parts of chlorine is passed into this solution at 0° to 5°C over a period of 3 hours. The mixture is stirred for another 5 hours at ambient temperature and then distilled at subatmospheric pressure. 26 parts (67.2% of theory) of 3-chloro-2,4,5-trimethylbenzophenone is obtained at 155° to 165°C at 0.1 mmHg.

reactant | 2,4,5-trimethylbenzophenone | CC1=C(C(=O)C2=CC=CC=C2)C=C(C(=C1)C)C | C16H16O
reactant | iodine | II | I2
reactant | chlorine | ClCl | Cl2
solvent | trichloroethylene | ClC=C(Cl)Cl | C2HCl3
product | 3-chloro-2,4,5-trimethylbenzophenone | 67.2% | ClC=1C(=C(C(=O)C2=CC=CC=C2)C=C(C1C)C)C | C16H15ClO
